US04663343
7-Methyl-7-azabicyclo[4.1.0]heptane (36.1 g prepared by the method detailed in Example 1), methylamine (162 ml of a 23-30% aqueous solution) and 0.5 g of ammonium chloride were heated in an oil bath at 94°14 99° C. for 21.5 hours. After cooling to 0° C. the mixture was treated with 10 g of solid sodium hydroxide and extracted four times with 100 ml portions of ether. The combined ether extracts were dried over anhydrous magnesium sulfate, the ether evaporated, and the residue distilled to yield 18 g (39%) of trans-N,N'-dimethylcyclohexane-1,2-diamine, bp 78° C. (at a pressure of 1866 Pascal) which solidified upon standing to a solid which melted at 17° C.

reactant | 7-Methyl-7-azabicyclo[4.1.0]heptane | CN1C2CCCCC12 | C7H13N
reactant | methylamine | CN | CH5N
reactant | ammonium chloride | 0.5 g | [Cl-].[NH4+]
reactant | sodium hydroxide | [OH-].[Na+]
product | trans-N,N'-dimethylcyclohexane-1,2-diamine | 18 g, 39% | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
